US06891070B2
d) Z-1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-4-chloro-1,2-diphenyl-but-1-ene
1-{4-[2-(2-Benzyloxy-ethoxy)ethoxy]phenyl}-1,2-diphenyl-butane-1,4-diol (10.0 g, 19.5 mmol) is dissolved in toluene (50 ml). Triethylamine (2.17 g, 21.4 mmol) is added to the solution and the mixture is cooled to −10° C. Thionyl chloride (6.9 g, 58.5 mmol) is added to the mixture at −10-±0° C. The mixture is stirred for 1 hour at 0-5° C., warmed up to 70° C. and stirred at this temperature for 4 hours. Solvent is evaporated, the residue is dissolved to toluene, washed three times with 1M HCl solution and twice with water. The Z-isomer of the product is crystallized from isopropanol-ethyl acetate. Yield 3.0 g. The filtrate is purified by flash chromatography to give E-isomer.

reactant | 1-{4-[2-(2-Benzyloxy-ethoxy)ethoxy]phenyl}-1,2-diphenyl-butane-1,4-diol | 19.5 mmol, 10.0 g | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(C(CCO)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C33H36O5
reactant | Triethylamine | 21.4 mmol, 2.17 g | C(C)N(CC)CC | C6H15N
reactant | Thionyl chloride | 58.5 mmol, 6.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Z-1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-4-chloro-1,2-diphenyl-but-1-ene | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1 | C33H33ClO3
